US05099020
Diethyl 3,3-dimethylallylmalonate
422 mg (14.1 mmol, 80% mineral oil dispersion) sodium hydride was washed 3 ×, each with 5 mL pentane, and suspended in a mixture of 10 mL tetrahydrofuran and 5 mL dimethylformamide. 2.04 g (13.4 mmol) diethyl malonate was added, and the mixture stirred for 40 mins to form a clear light brown solution. Prenyl bromide (2.00 g, 13.4 mmol) was then added, and the solution refluxed for 1 hr. The reaction was quenched with water, acidified to pH 2 with 1N HCl, and extracted 2 ×, each with 10 mL diethyl ether. The organic phases were dried over MgSO4, filtered, and concentrated. Chromatography on a 2×18 cm column, packed with hexane and eluted with 50 mL each of 2%, 4%, 7%, 10%, and 15% diethyl ether/hexane, furnished 2.734 g of a clear colorless oil in 12 mL fractions 4-16.

reactant | sodium hydride | 14.1 mmol, 422 mg | [H-].[Na+]
reactant | pentane | 5 mL | CCCCC | C5H12
reactant | diethyl malonate | 13.4 mmol, 2.04 g | C(CC(=O)OCC)(=O)OCC | C7H12O4
reactant | Prenyl bromide | 13.4 mmol, 2.00 g | C(C=C(C)C)Br | C5H9Br
solvent | tetrahydrofuran | 10 mL | O1CCCC1 | C4H8O
solvent | dimethylformamide | 5 mL | CN(C=O)C | C3H7NO
product | Diethyl 3,3-dimethylallylmalonate | 2.734 g | CC(=CCC(C(=O)OCC)C(=O)OCC)C | C12H20O4
